US05321002
To a solution of 60 mL of hydrazine monohydrate in 380 mL of ethanol was added 81 g (0.38 mole) of 2,3-dichloro-5-trifluoromethylpyridine during a period of 25 minutes. At the end of the addition the temperature had risen to 37° C. This mixture was heated to reflux and maintained at reflux for approximately 15 hours. The solvent was evaporated under reduced pressure, leaving a wet slurry that was immediately recrystallized from boiling ethanol/water (5:2). The mixture was cooled to 20° C. and then filtered. The filter cake was air-dried, yielding approximately 60 g of 3-chloro-5-trifluoromethylpyrid-2-ylhydrazine. The NMR spectrum was consistent with the assigned structure. This reaction was repeated to obtain additional material for subsequent reactions.

reactant | hydrazine monohydrate | 60 mL | O.NN
reactant | 2,3-dichloro-5-trifluoromethylpyridine | 0.38 mole, 81 g | ClC1=NC=C(C=C1Cl)C(F)(F)F | C6H2Cl2F3N
solvent | ethanol | 380 mL | C(C)O | C2H6O
product | 3-chloro-5-trifluoromethylpyrid-2-ylhydrazine | approximately 60 g | ClC=1C(=NC=C(C1)C(F)(F)F)NN | C6H5ClF3N3
